US07153854B2
A mixture of ethyl 4-(4-(5-bromo-3-pyridinyl)-7-ethyl-2-{[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)butanoate (89 mg) and pyridinium p-toluenesulfonate (0.8 mg) in MeOH (5 mL) was heated under reflux for 2 hours. After evaporation of solvent, the residue was purified by silica gel column chromatography eluting with a mixture of hexane and AcOEt (10:1-1:1) to give ethyl 4-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(2-hydroxyethoxy)methyl]pyrrolo[1,2-b]pyridazin-3-yl}butanoate as yellow oil (69 mg).

reactant | ethyl 4-(4-(5-bromo-3-pyridinyl)-7-ethyl-2-{[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]methyl}pyrrolo[1,2-b]pyridazin-3-yl)butanoate | 89 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCC(=O)OCC)COCCOC1OCCCC1)C(=CC2)CC | C28H36BrN3O5
reactant | pyridinium p-toluenesulfonate | 0.8 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | MeOH | 5 mL | CO | CH4O
product | ethyl 4-{4-(5-bromo-3-pyridinyl)-7-ethyl-2-[(2-hydroxyethoxy)methyl]pyrrolo[1,2-b]pyridazin-3-yl}butanoate | 69 mg | BrC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCC(=O)OCC)COCCO)C(=CC2)CC | C23H28BrN3O4
